US09029536B2
C) 4-(1-Methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)aniline
A mixture of 1-methyl-3-(4-nitrophenyl)-1H-pyrrolo[3,2-b]pyridine (85 mg) and 10% Pd—C (50% wet, 100 mg) in MeOH (4 mL) and AcOEt (4 ml) was stirred under H2 atmosphere (balloon) for 4 h. After this time, the reaction was filtered and the filtrate was concentrated under reduced pressure to give the title compound (74 mg).

reactant | 1-methyl-3-(4-nitrophenyl)-1H-pyrrolo[3,2-b]pyridine | 85 mg | CN1C=C(C2=NC=CC=C21)C2=CC=C(C=C2)[N+](=O)[O-] | C14H11N3O2
solvent | MeOH | 4 mL | CO | CH4O
solvent | AcOEt | 4 ml | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | 4-(1-Methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)aniline | 74 mg | CN1C=C(C2=NC=CC=C21)C2=CC=C(N)C=C2 | C14H13N3
